US08604021B2
1,2,3,4-Tetrahydro-6-methoxy-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine
A solution of 1,2,3,4-tetrahydro-6-methoxynaphthalen-1-amine (1.0 mmol), 2,4-difluoro-1-(methylsulfonyl)benzene (1.0 mmol) and diisopropylethylamine (4.0 mmol) in N,N-dimethylformamide (2 mL) was stirred at 110° C. for 16 h. The reaction was cooled to room temperature, poured over water and extracted with diethyl ether. The solvent was concentrated in vacuo and the residue was used without further purification for the following reaction. N-(5-Fluoro-2-(methylsulfonyephenyl)-1,2,3,4-tetrahydro-6-methoxynaphthalen-1-amine (0.5 mmol), piperazine (8.0 mmol), N,N-diisopropylethylamine (4.0 mmol) were stirred at 80° C. in dry acetonitrile (3 mL) for 16 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 10% methanol in dichloromethane to afford the title compound (21% yield). 1H NMR (400 MHz, CDCl3): δ 7.61 (d, 1H), 7.21 (d, 1H), 6.72 (dd, 1H), 6.64 (d, 1H), 6.28 (dd, 1H), 6.23 (d, 1H), 4.62 (m, 1H), 3.79 (s, 3H), 3.28 (t, 4H), 3.00 (t, 4H), 2.93 (s, 3H), 2.81 (m, 2H), 1.94 (m, 4H); MS (ESI) m/z: 415.55 (M++1).

reactant | 1,2,3,4-tetrahydro-6-methoxynaphthalen-1-amine | 1.0 mmol | COC=1C=C2CCCC(C2=CC1)N | C11H15NO
reactant | 2,4-difluoro-1-(methylsulfonyl)benzene | 1.0 mmol | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | diisopropylethylamine | 4.0 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperazine | 8.0 mmol | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 4.0 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1,2,3,4-Tetrahydro-6-methoxy-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine | 21% yield | COC=1C=C2CCCC(C2=CC1)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C22H29N3O3S
